US04298529
7-Amino-3-methylenecepham-4-carboxylic acid (107 g.) was dissolved in a solution of methanol (6.4 l.) and methanesulfonic acid (57.7 g.). Ozone was bubbled into the solution at -70° to -75° C. until the starting compound was not detected. After bubbling nitrogen gas into the resultant mixture, sodium methoxide (3.5 g.) was added to the mixture below -65° C. Sodium borohydride (56.7 g.) was added to a solution of sodium hydroxide (14.4 g.) in water (3.2 l), stirred at room temperature for 20 minutes and chilled. The oxidized reaction mixture was added to the sodium borohydride solution over 3 minutes, and stirred at -4° to 0° C. for 20 minutes. The solution was adjusted to pH 4.0 with 6 N hydrochloric acid, and allowed to stand at 5° C. overnight. The precipitates were collected by filtration, washed with methanol and then dried to give 7-amino-3-hydroxycepham-4-carboxylic acid (70.8 g.).

reactant | 7-Amino-3-methylenecepham-4-carboxylic acid | 107 g | NC1[C@@H]2N(C(C(CS2)=C)C(=O)O)C1=O | C8H10N2O3S
reactant | methanesulfonic acid | 57.7 g | CS(=O)(=O)O | CH4O3S
solvent | methanol | 6.4 l | CO | CH4O
product | 7-amino-3-hydroxycepham-4-carboxylic acid | 70.8 g | NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O | C7H10N2O4S
